US07683060B2
Step 3. 3-Chloro-6-phenyl-1,2,4-triazine
A mixture of 6-phenyl-1,2,4-triazin-3(2H)-one (2.45 g, 0.0141 mol) and DMF (0.5 mL) in phosphoryl chloride (20.0 mL, 0.214 mol) and chloroform (20.0 mL) was heated under reflux overnight. After cooling, the volatiles were removed under reduced pressure. The residue was dissolved in DCM (60 mL) and was poured into ice with stirring. The mixture was neutralized with NaOH (1N), and filtered through a pad of celite to remove a small amount of insoluble residue. The organic layer was separated. The aqueous layer was extracted with DCM (3×20 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated. The residue was flash chromatographed on a silica gel column to give the desired product (2.20 g, 81.1%). Analytical LCMS: (M+H)+=192.1/194.1.

reactant | 6-phenyl-1,2,4-triazin-3(2H)-one | 0.0141 mol, 2.45 g | C1(=CC=CC=C1)C=1C=NC(NN1)=O | C9H7N3O
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | phosphoryl chloride | 0.214 mol, 20.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 20.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-6-phenyl-1,2,4-triazine | 2.20 g, 81.1% | ClC=1N=NC(=CN1)C1=CC=CC=C1 | C9H6ClN3
